US07696229B2
(CH3CO)2O (50 g, 480.77 mmol) was added to N-methylbenzenamine (10.7 g, 100.00 mmol), and the resulting solution was stirred at room temperature for 15 hours. The reaction mixture was then quenched by adding 200 mL of iced water. The resulting solution was extracted with dichloromethane (2×100 mL), and the organic layers were combined and concentrated to afford 11 g (70%) of N-methyl-N-phenylacetamide as a white solid.

reactant | (CH3CO)2O | 480.77 mmol, 50 g | O(C(=O)C)C(=O)C | C4H6O3
reactant | N-methylbenzenamine | 100.00 mmol, 10.7 g | CNC1=CC=CC=C1 | C7H9N
product | N-methyl-N-phenylacetamide | 11 g, 70% | CN(C(C)=O)C1=CC=CC=C1 | C9H11NO
